US07855194B2
Step 1: 4-(6,7-Dimethoxy-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-chloro-6,7-dimethoxy-4-morpholin-4-yl-quinazoline (3.10 g, 10.01 mmol, 1.0 equiv; commercially available from Specs Research Laboratory, The Netherlands), 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.00 g, 10.01 mmol, 1.0 equiv; commercially available), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (0.25 g, 0.40 mmol, 0.04 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.21 g, 0.20 mmol, 0.02 equiv) and KOtert-Bu (1.35 g, 12.01 mmol, 1.2 equiv) in toluene (10 mL) was heated under Ar by microwave irradiation to 100° C. for 2 h. The crude reaction mixture was filtered through Hyflo Super Cel, a sat. solution of sodium chloride (100 mL) was added and the mixture extracted with ethyl acetate (3×50 mL). The combined organic phases were concentrated by evaporation under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane (+1% triethylamine)/ethyl acetate to provide 2.45 g (52%) of the title compound. MS (ISP): 474.4 [M+H]+.

reactant | 2-chloro-6,7-dimethoxy-4-morpholin-4-yl-quinazoline | ClC1=NC2=CC(=C(C=C2C(=N1)N1CCOCC1)OC)OC | C14H16ClN3O3
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.40 mmol, 0.25 g, 0.04 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | KOtert-Bu | 12.01 mmol, 1.35 g, 1.2 equiv | O([K])C(C)(C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.20 mmol, 0.21 g, 0.02 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(6,7-Dimethoxy-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.45 g, 52% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC(=C(C=C2C(=N1)N1CCOCC1)OC)OC | C24H35N5O5
